US04118386
Ethyl 8-Chloro-6-(2-chlorophenyl)-4H-imidazo[1,5-a] [1,4]benzodiazepine-3-carboxylate
A mixture of 1.41 g (0.0125 mole) of ethyl isocyanoacetate, 1.4 g (0.0125 mole) of potassium t-butoxide and 125 ml of tetrahydrofuran was stirred at room temperature for 10 minutes. Following the addition of 5.23 g (0.01 mole) of 7-chloro-5-(2-chlorophenyl)-2-[bis-(morpholino)-phosphinyloxy]-3H-1,4-benzodiazepine stirring was continued for 1/2 hr. The reaction mixture was acidified with glacial acetic acid, diluted with 250 ml of water and extracted with three 100 ml portions of methylene chloride. The methylene chloride extracts were washed with saturated sodium bicarbonate solution, dried and evaporated. The crystalline residue was collected and washed with ether to give product with mp 215°-220°. The material was recrystallized from methylene chloride/ethyl acetate for analysis, mp 225°-228°.

reactant | ethyl isocyanoacetate | 0.0125 mole, 1.41 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium t-butoxide | 0.0125 mole, 1.4 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
reactant | 7-chloro-5-(2-chlorophenyl)-2-[bis-(morpholino)-phosphinyloxy]-3H-1,4-benzodiazepine | 0.01 mole, 5.23 g | ClC=1C=CC2=C(C(=NCC(=N2)OP(=O)(N2CCOCC2)N2CCOCC2)C2=C(C=CC=C2)Cl)C1 | C23H25Cl2N4O4P
solvent | water | 250 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 8-Chloro-6-(2-chlorophenyl)-4H-imidazo[1,5-a] [1,4]benzodiazepine-3-carboxylate | ClC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)OCC)C3=C(C=CC=C3)Cl)C1 | C20H15Cl2N3O2
